US07253198B2
To a solution of ethyl 4-amino-3-nitrobenzoate (D212) (21.0 g, 100 mmol, 1 equiv) in CH2Cl2 (500 ml) at room temperature was added bromine (6.7 ml, 130 mmol, 1.3 equiv) and the resulting mixture was refluxed for 4 h then bromine (2 ml, 40 mmol, 0.4 equiv) was added and the resulting mixture refluxed for another 3 h then cooled to room temperature. The organic phase was washed twice with a 10% aqueous Na2S2O3 solution and twice with H2O, dried over MgSO4 and concentrated in vacuo to give ethyl 4-amino-3-bromo-5-nitrobenzoate (D213) (27.1 g, 94%) as a yellow solid which was used in the next step without further purification.

reactant | ethyl 4-amino-3-nitrobenzoate | 100 mmol, 21.0 g, 1 equiv | NC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H10N2O4
reactant | bromine | 130 mmol, 6.7 ml, 1.3 equiv | BrBr | Br2
reactant | bromine | 40 mmol, 2 ml, 0.4 equiv | BrBr | Br2
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | ethyl 4-amino-3-bromo-5-nitrobenzoate | 27.1 g, 94% | NC1=C(C=C(C(=O)OCC)C=C1[N+](=O)[O-])Br | C9H9BrN2O4
